US07741341B2
(iii) 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-6-(2,2,2-trifluoro-ethoxy)-3H-thieno[3,4-d]imidazole-4-carboxylic acid methyl ester
3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-6-(2,2,2-trifluoro-ethoxy)-3H-thieno[3,4-d]imidazole-4-carboxylic acid methyl ester was prepared by a procedure according to example 81 starting from 68.0 mg (0.15 mmol) 2-(1-Isopropyl-piperidin-4-ylcarbamoyl)-6-(2,2,2-trifluoro-ethoxy)-3H-thieno[3,4-d]imidazole-4-carboxylic acid methyl ester and 42.2 mg (0.15 mmol) 3-bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole. Purification by preparative RP-HPLC (CH3CN/H2O gradient+0.05% formic acid) gave the title compound as its formiate in form of a white amorphous solid. Structural assignment was achieved by NOE-spectroscopy.

reactant | 2-(1-Isopropyl-piperidin-4-ylcarbamoyl)-6-(2,2,2-trifluoro-ethoxy)-3H-thieno[3,4-d]imidazole-4-carboxylic acid methyl ester | 0.15 mmol, 68.0 mg | COC(=O)C=1SC(=C2N=C(NC21)C(NC2CCN(CC2)C(C)C)=O)OCC(F)(F)F | C18H23F3N4O4S
reactant | 3-bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole | 0.15 mmol, 42.2 mg | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
product | 3-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-6-(2,2,2-trifluoro-ethoxy)-3H-thieno[3,4-d]imidazole-4-carboxylic acid methyl ester | COC(=O)C=1SC(=C2N=C(N(C21)CC2=NOC(=C2)C=2SC(=CC2)Cl)C(NC2CCN(CC2)C(C)C)=O)OCC(F)(F)F | C26H27ClF3N5O5S2
